US05102877
To a solution of lithium diisopropylamide (4.7×10-3 mole) in tetrahydrofuran was added a solution of 1-benzyl-4-(t-butyldimethylsilyloxymethyl)-2-oxopyrrolidine (1.0 g) in tetrahydrofuran (20 ml) at -78° C. under nitrogen. The mixture was stirred for 30 minutes at -78° C., and acetaldehyde (5 ml) was added to the reaction mixture. After stirring for 30 minutes at -78° C., the solution was poured into ice water, and sodium chloride was added to saturate the aqueous phase. The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The combined organic phase was dried over magnesium sulfate, and concentrated. The residue was chromatographed on silica gel eluting with a mixture of n-hexane and ethyl acetate (3:1~2:1, V/V) to give 1-benzyl-3-(1-hydroxyethyl)-4-(t-butyldimethylsilyloxymethyl)-2-oxopyrrolidine (1.01 g).

reactant | lithium diisopropylamide | 4.7×10-3 mole | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-benzyl-4-(t-butyldimethylsilyloxymethyl)-2-oxopyrrolidine | 1.0 g | C(C1=CC=CC=C1)N1C(CC(C1)CO[Si](C)(C)C(C)(C)C)=O | C18H29NO2Si
reactant | acetaldehyde | 5 ml | C(C)=O | C2H4O
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 1-benzyl-3-(1-hydroxyethyl)-4-(t-butyldimethylsilyloxymethyl)-2-oxopyrrolidine | 1.01 g | C(C1=CC=CC=C1)N1C(C(C(C1)CO[Si](C)(C)C(C)(C)C)C(C)O)=O | C20H33NO3Si
